US04772704
2-{2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethylamino}-5-nitro-4(3H)-pyrimidone
A mixture containing 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine (4.72 g; 22.0 mmoles) and 2-methylthio-5-nitro-4-hydroxypyrimidine (4.0 g; 21.37 mmoles) in 20 ml of ethanol was heated at reflux temperature for 18 hours. The reaction mixture was evaporated under reduced pressure, and the residue was recrystallized from 2-methoxyethanol to give 5.96 g of the title compound, mp 201°-204° C.

reactant | 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine | 22.0 mmoles, 4.72 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 2-methylthio-5-nitro-4-hydroxypyrimidine | 21.37 mmoles, 4.0 g | CSC1=NC=C(C(=N1)O)[N+](=O)[O-] | C5H5N3O3S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-{2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethylamino}-5-nitro-4(3H)-pyrimidone | 5.96 g | CN(C)CC1=CC=C(O1)CSCCNC1=NC=C(C(N1)=O)[N+](=O)[O-] | C14H19N5O4S
